US05457225
0.98 g of (R)-2-amino-1-butanol and 1.78 g of 3-tertbutylsalicylaldehyde were disolved in 15 ml of methanol to prepare a methanol solution. The methanol solution was heated under reflux over 6 hours to obtain a reaction mixture. The solvent of the mixture was removed by distillation in vacuo to obtain a concentrated solution. The concentrated solution was placed on a silica gel column and eluted with a mixture of hexane and ethyl acetate (hexane:ethyl acetate=3:1) to give 2.04 g of (R)-2-[N-(3-tert-butylsalicylidene)amino]-1-butanol as yellow syrup (yield: 82%).

reactant | (R)-2-amino-1-butanol | 0.98 g | N[C@@H](CO)CC | C4H11NO
reactant | 3-tertbutylsalicylaldehyde | 1.78 g | C(C)(C)(C)C1=C(C(C=O)=CC=C1)O | C11H14O2
solvent | methanol | 15 ml | CO | CH4O
product | (R)-2-[N-(3-tert-butylsalicylidene)amino]-1-butanol | 2.04 g, yield: 82% | C(C)(C)(C)C1=C(C(C=N[C@@H](CO)CC)=CC=C1)O | C15H23NO2
